US08536176B2
(3) N-Hydroxy-4-[2-(4-methanesulfonylphenoxymethyl)-pyridin-5-yl]piperidin-1-carboxamidine
To a solution of 4-[2-(4-methanesulfonylphenoxymethyl)pyridin-5-yl]piperidin-1-carbonitrile (92 mg, 0.248 mmol) in ethanol (0.8 mL) was added 50% hydroxylamine solution (0.2 mL). The mixture was stirred at 60° C. for 4 hours, allowed to cool to room temperature and concentrated under reduced pressure to give the title compound (98 mg, yield 98%).

reactant | 4-[2-(4-methanesulfonylphenoxymethyl)pyridin-5-yl]piperidin-1-carbonitrile | 0.248 mmol, 92 mg | CS(=O)(=O)C1=CC=C(OCC2=NC=C(C=C2)C2CCN(CC2)C#N)C=C1 | C19H21N3O3S
reactant | hydroxylamine | 0.2 mL | NO | H3NO
solvent | ethanol | 0.8 mL | C(C)O | C2H6O
product | N-Hydroxy-4-[2-(4-methanesulfonylphenoxymethyl)-pyridin-5-yl]piperidin-1-carboxamidine | 98 mg, yield 98% | ONC(=N)N1CCC(CC1)C=1C=CC(=NC1)COC1=CC=C(C=C1)S(=O)(=O)C | C19H24N4O4S
